Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I went to the police station and they recommended I come here."
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR including Dr. ___ initial consultation note dated 
___ and Dr. ___ admission note dated ___. 
. 
Briefly, this is a ___ year old single, employed man, self 
reported history of depression and anxiety s/p one prior 
psychiatric hospitalization 7 months ago, no prior suicide 
attempts, who presented to ___ ED from the police station 
after filing a report that unknown individuals were hacking into 
his
personal electronics. 
. 
Upon initial interview, the patient reported that approximately 
___ years ago he started noticing strange things going on with 
his personal electronics and accounts. As a result he has 
switched phone carriers 3 times, has changed many of his 
accounts. He reported he is adopted from birth and believes that 
biological siblings are following him around, trying to ruin his 
life. Mr. ___ stated was living in ___ until about 2 
months ago when he moved to ___ to get away from them, but 
the patient reported he felt that they have followed him here. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
On my interview with Mr. ___, who was cooperative on 
examination but a somewhat unreliable historian, he confirmed 
the history initially presented in the ED. Patient stated that 
approximately ___ years ago, while he as in college he began 
noticing that other people were mistaking him for another person 
and calling him the wrong name. He stated that this kept on 
happening and so he went to his "foster parents" and asked them 
if he was adopted, and they told him he was not adopted. Mr. 
___ stated that over the past ___ years he has realized 
that he is adopted (although cannot provide any evidence of 
this, stating he just "knows") and that his "biological parents" 
have had more children who are now hacking into his Facebook 
account, stealing money, and bugging his phone to the point 
where he cannot make phone calls without worrying that others 
are listening to his phone call. "I have no privacy anymore... I 
can't use my laptop, I can't do anything." He stated that he 
recently found out "names" from "someone... people I know" and 
states the names of his biological family are ___, and 
___, whom he thinks is doing the majority of the hacking. 
Patient reports that his alleged biological family have been 
taking money out his bank account, "little sums, like $30 so 
they
don't raise suspicion" and breaking into his bedroom in order to 
steal clothing. 
. 
In this setting, patient reported feeling increasingly stressed, 
moving from ___ to ___ in order to escape this 
persecution. Patient stated that he is currently living in a 
house in ___ with roommates, whom he does not talk with 
often, and works as a ___ at ___. Notes he 
is struggling at work, as he finds the situation unbearable, 
"can't live the rest of my life like this... I'm going to go 
crazy and hurt myself." Denied having to kill himself or intent. 

. 
On day of presentation, patient stated that he went to the 
police station in order to file a complaint against his 
"adoptive family" who had been after him. He stated that after 
going the police station, "they suggested I come here." 
. 
On psychiatric review of systems, patient reported he has been 
sleeping well, about 4 hours during the day (he works during the 
evening) but sleeps normally when he is not working. Reported he 
has had difficulty enjoying things recently, given the amount of 
stress he is under, but stated he used to enjoy playing video 
games, particularly Halo. Reported decreased energy, decreased
appetite with recent 15 pound weight loss. Stated concentration 
was "okay." Denied current SI/HI. Denied history of manic 
symptoms including decreased need for sleep, increased energy, 
worsening impulsivity, grandiosity. Denied auditory or visual 
hallucinations, ideas of reference, thought insertion or
broadcasting. Denied panic attacks on my examination, although 
endorsed panic attacks on Dr. ___ interview. 
. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: unclear if prior formal diagnoses, patient reports
history of depression and anxiety 
- SA/SIB: denies/denies 
- Hospitalizations: one prior hospitalization at ___ 7
months ago for 3 days
- Psychiatrist: none, states he had been seeing a Dr. ___ in ___. 
- Therapist: none 
- Medication Trials: Wellbutrin (self discontinued as he 
reported
he felt better), risperidone (c/o shortness of breath). 

Past medical history:
- Asthma 

 
Social History:
Substance use history:
- Alcohol: reports drinking one drink every two weeks
- Illicits: denies
- Tobacco: denies 
. 
Personal and Social History: Per patient, OMR. Patient initially 
reported that he was born in ___ but was adopted as an infant 
and raised by his adoptive family. However, on my interview, 
patient stated that although he "knows" he is adopted, there is 
no evidence that he could provide that he is (parents denied he 
is adopted, patient admitted he has no legal evidence he is not 
his parents biological child). Patient reported being the 
youngest of 5 children with 2 brothers and sisters (had reported 
in the ED these are his foster brothers and sisters, but seems 
more likely these are his biological siblings). Patient reported 
he spent the majority of his childhood in ___, 
describing his childhood as "okay." States his mother works as a 
___ and his father works in ___. Patient 
graduated from high school and attended ___ years of college in ___ 
studying ___ science when he began developing paranoia as 
noted in the HPI. Recently moved from ___ to ___ 2 months 
ago and is currently living in a house with his roommates. 
States she works as a ___ at the ___. Denies 
history of legal issues, denies access to guns. Denies a history 
of physical or sexual abuse. Never married, no children. 

 
Family History:
Family psychiatric history:
- Diagnoses: denies 
- Suicides: denies
- Addictions: denies 

 
Physical Exam:
VS: 97.6   116/78    65    18     99%RA 
- HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus, bilateral 
conjunctival injection
- Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout
- Pulmonary: No increased work of breathing. Lungs clear to 
auscultation bilaterally. No wheezes/rhonchi/rales
- Abdominal: Non-distended, bowel sounds normoactive. Verbally 
endorses mild diffuse tenderness to palpation all quadrants; no 
guarding, no rebound tenderness; verbally endorses R CVA 
tenderness but no recoil/withdrawal with tap
- Extremities: Warm and well-perfused; no edema of the limbs
- Skin: No rashes or lesions noted 
Neurological:
- Cranial Nerves:
     - I: Olfaction not tested
     - II: PERRL 3 to 2mm, both directly and consentually
     - III, IV, VI: EOMI but L eye exotropic, L eye does not 
accommodate; in complete baring of sclera in R eye, no nystagmus
     - V: Facial sensation intact to light touch in all 
distributions except reports decreased sensation in L forehead 
and L cheek compared to R side
     - VII: No facial droop, L forehead wrinkles absent when 
lifting brows and mild decreased elevation of L lip corner upon 
being asked to smile, but otherwise facial musculature symmetric 
and in upper and lower distributions, bilaterally
     - VIII: Hearing intact to finger rub bilaterally
     - IX, X: Palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: Tongue protrudes in midline
- Motor: Normal bulk and tone bilaterally. No abnormal 
movements, no tremor. Strength ___ throughout
- Sensory: No deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: Normal on finger to nose test, no intention 
tremor noted
- Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty. Romberg absent
Cognition: 
- Wakefulness/alertness: Awake and alert
- Attention: MOYB with 1 error
- Orientation: Oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): Not tested
- Memory: ___ registration, ___ recall after 5 min without cues 
and ___ with categorical cues, long-term grossly intact
- Fund of knowledge: Consistent with education; intact to last 3 
presidents
- Calculations: 7 quarters = "$1.75"
- Abstraction: Interprets "don't just a book by its cover" as 
"don't judge people by their appearance"
- Visuospatial: Not assessed
- Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status:
- Appearance: ___ yo AA man appearing stated age, well groomed, 
wearing hospital gown, in no apparent distress, lean/toned 
muscular build
- Behavior: Sitting up in bed, appropriate eye contact, no 
psychomotor agitation or retardation
- Attitude: Cooperative, engaged
- Mood: "I can't keep living my life like this"
- Affect: Mood-congruent, somewhat constricted range, 
appropriate to situation, appears somewhat anxious and 
frustrated but still calm
- Speech: Normal rate, volume, and tone
- Thought process: Linear, coherent, goal-oriented, no loose 
associations
- Thought Content:
     - Safety: Although patient denies active SI/HI, plan or 
desire, but states "I can't keep living like this"
     - Delusions: Possible delusions regarding belief that he is 
adopted, believes that someone/people are breaking into his room 
and stealing his clothes, that "biological" siblings are hacking 
into his social media accounts, phone, and stealing bank money
     - Obsessions/Compulsions: No evidence based on current 
encounter
     - Hallucinations: Denies AVH, not appearing to be attending 
to internal stimuli
- Insight: Limited
- Judgment: Poor

 
Pertinent Results:
___ 07:35PM   UREA N-17 CREAT-0.8
___ 06:20AM   ALT(SGPT)-25 AST(SGOT)-17 ALK PHOS-43 TOT 
BILI-1.5
___ 06:20AM   CHOLEST-147
___ 06:20AM   VIT B12-1040*
___ 06:20AM   %HbA1c-5.0 eAG-97
___ 06:20AM   TRIGLYCER-55 HDL CHOL-46 CHOL/HDL-3.2 
LDL(CALC)-90
___ 06:20AM   TSH-2.0
___ 04:41PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:41PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:41PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 04:30PM   GLUCOSE-85 UREA N-9 CREAT-0.7 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-25 ANION GAP-14
___ 04:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:30PM   WBC-5.6 RBC-5.53 HGB-16.2 HCT-45.4 MCV-82 
MCH-29.3 MCHC-35.7 RDW-12.0 RDWSD-35.5
___ 04:30PM   NEUTS-54.8 ___ MONOS-10.6 EOS-1.6 
BASOS-0.4 AbsNeut-3.09 AbsLymp-1.84 AbsMono-0.60 AbsEos-0.09 
AbsBaso-0.02
___ 04:30PM   PLT COUNT-218
 
Brief Hospital Course:
The patient is a ___ year old single, employed male with a 
self-reported history of depression and anxiety, s/p one prior 
psychiatric hospitalization 7 months ago, no prior suicide 
attempt, who presented to the ___ ED from the police station 
via EMS after trying to file a report that unknown individuals 
were hacking into his personal electronics. Interview with the 
patient was revealing of 1.5 to ___ years of fixed delusions, 
beginning with believing he was adopted after he had repeatedly 
been misidentified on the streets with an apparent progression 
of symptoms to the point where he believe his “biological” 
family is after him, hacking into his Facebook account, stealing 
money from his bank account, tapping into his phone 
conversations (to the point where he has changed his carrier 3 
times), and following him after he decided to move away from ___ 
to ___ to “get away”. In the setting of paranoia and 
delusions, the patient does report some periods of depression 
and describes lowered interest, weight loss, increased stress, 
anxiety, and reporting panic attack symptoms in the ED (although 
patient denied them upon admission interview).
.
Mental status examination was notable for a well-groomed man who 
was cooperative, with depressed mood, somewhat constricted 
affect, delusional and paranoid thought content but with a 
thought process that was notably linear, logical, 
future-oriented and goal-directed. Neurological examination was 
initially concerning for the lack of accommodation in the left 
eye and a mild decreased elevation of the left face; however, 
MRI with and without contrast was negative for any notable 
anomalies or pathologies, and patient did not exhibit or 
complain of any focal neurological deficits. Admission bloodwork 
was within normal limits.
.
Diagnostically, the differential initially remained broad given 
the abnormal neurological examination; however, medical workup 
including neuroimaging was negative as mentioned above. Given 
the patient’s young age, a primary psychotic disorder is on the 
differential, likely delusional disorder, although schizophrenia 
remains on the differential (although no evidence of prodromal 
period or negative symptoms on my examination). History was 
unimpressive for details suggestive of mania, although it was 
difficult to verify the patient’s story as collaterals were 
unable to be reached; regardless, this admission presentation 
was unlikely for bipolar disorder. Patient denied a history of 
substance use and his tox screen was negative; it was unlikely 
that substances were contributing to this admission 
presentation. By time of discharge, the persistence of 
nonbizarre paranoid persecutory delusions while still 
maintaining normal executive function, a linear and organized 
thought process, lack of cognitive decline, maintenance of 
normal affect, and a highly systematized delusional belief 
system made delusional disorder be the most highly suspected 
diagnosis.
.
DSM V Diagnoses:
- Delusional Disorder 
.
#. Legal/Safety: Patient was admitted to ___ 
___ Inpatient Psychiatric Unit from the 
ED on a ___. Upon admission, patient signed a Conditional 
Voluntary status which was accepted (___) as well as a 3 
day notice that expired on ___. Patient was placed on 15 minute 
checks and maintained his safety throughout the hospitalization. 
He did not require physical or chemical restraints. Given his 
ability to ___ for his ADL's independently, consistent denial 
of suicidal ideation or thoughts of self harm, and thought 
process that was mostly linear, goal and future oriented, I did 
not feel he met criteria to file a 7&8n on.  
.
#. Delusional Disorder: Patient continued to remain fixed in the 
nature and detail of his delusions regarding his biological 
family pursuing him in ___, hacking into his social media 
accounts, tapping into his phone and laptop, and taking money 
from his bank. Medical workup was negative for organic 
etiologies (TSH, B12, RPR, electrolytes, tox screen) and 
neuroimaging was negative (MRI with and without contrast). After 
discussing the risks and benefits of initiating antipsychotic 
pharmacotherapy, with patient’s consent, treatment was initiated 
with Zyprexa 5 mg PO QHS which was titrated up to 10 mg PO QHS 
(and formulation was switched from regular tablet to 
disintegrating tablet, Zyprexa Zydis, to ensure patient’s oral 
compliance). Patient tolerated the medication without complaints 
or adverse reactions and remained cooperative with treatment. He 
was provided with individual, group, milieu, and supportive 
psychotherapy. Delusions remained fixed by time of discharge, 
despite ongoing antipsychotic treatment, but patient displayed 
signs of and self-reported improvement in anxiousness, insomnia, 
distress, and depressed mood. He remained linear, goal-directed 
and future-oriented in his thought process.
.
Ativan 0.5 mg PO BID PRN was offered for anxiety, which the 
patient did not utilize frequently. Patient responded well to 
verbal reassurance, supportive psychotherapy, and standing 
antipsychotic treatment.
.
The treatment team attempted to reach collateral contacts 
numerous times throughout this hospitalization. This proved to 
be difficult as the patient was only able to provide the names 
of his mother and father, with their home address in ___ 
(phone number was lost during the patient’s most recent factory 
reset of his cell phone, prior to admission). A phone number was 
obtained via online search, but the individual who responded via 
phone call denied the presence of anyone in her family by the 
patient’s name, and other attempts for contact by leaving 
messages did not ___ a response.
.
Of note, by time of discharge, patient was reporting 
significantly improved mood with consistent denial of suicidal 
ideation, thoughts of self-harm, or homicidal ideation. While 
delusions remained fixed, he was expressing improved insight, 
stating that even with the ongoing persecution, he has found 
techniques he has learned during group sessions to help him 
better “cope” and to “live my life”. He verbalized understanding 
of the importance of compliance with outpatient follow-up and 
expressed a strong interest in returning to his work. He was 
noted to attend to his ADLs independently and appropriately.
.
The treatment team attempted to arrange follow-up appointments 
and referrals; a primary ___ provider initial appointment was 
set for the day of discharge in the afternoon at the ___ 
___ Associates Primary ___ 
Clinic with Dr. ___. A referral was made to the PREP 
program at ___, but the program was not open for new 
intakes at this time (regardless, information and contact 
numbers were provided to the patient and he was encouraged to 
re-contact PREP in the future). An outpatient psychiatrist 
referral was attempted but this proved difficult due to the 
patient lacking health insurance; we attempted to assist the 
patient in signing up for ACA, which he declined. 
.
#. Convergence Insufficiency: Upon initial neurologic 
examination, patient was found to lack left eye accommodation. 
MRI with and without contrast was negative for any notable 
pathology, and patient denied any recent or acute focal 
neurologic deficits such as vision changes, blurriness, 
headache, weakness, etc. As the left eye was mildly extropic at 
rest, the finding was suspected to be chronic and not an acute 
issue.
.
#. Sore Throat: Patient complained of a sore throat with 
swallowing in the first few days of admission. MRI with and 
without contrast was incidentally notable for mild enlargement 
of tonsils; a rapid strep test was performed which was negative 
and the patient’s complaint of throat soreness had resolved by 
the time of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  OLANZapine (Disintegrating Tablet) 10 mg PO QHS psychosis 
RX *olanzapine [Zyprexa Zydis] 10 mg 1 tablet(s) by mouth at 
bedtime Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Delusional disorder

 
Discharge Condition:
Mental status: Linear, logical, organized thoughts although 
delusion regarding individuals hacking into patient's accounts 
remains fixed.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory without assistance, independent with 
ADLs and iADLs.
Vitals: T 98.2, BP 117/75, HR 92, RR 18, SpO2 99%RA
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health ___ providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___